US07067540B2
Preparation of 1-benzyl-2-oxo-1,2-dihydropyridin-4-yl methyl(phenyl)carbamate
To a chilled solution of 1-benzyl-4-hydroxypyridin-2(1H)-one (0.375 g, 1.86 mmol) in anhydrous acetonitrile (10 mL) was added triethylamine (0.206 g, 2.04 mmol) followed by N-methyl-N-phenylcarbamoyl chloride (0.379 g, 2.24 mmol). The reaction mixture was stirred under nitrogen atmosphere at 0° C. for 30 min then at room temperature for 1 h. The reaction was monitored by TLC (5% methanol in dichloromethane). The solvent was removed under reduced pressure and the residue was washed with 10% citric acid and extracted with EtOAc. The organic extracts were combined, washed with water dried over anhydrous Na2SO4, and filtered. The solvent was removed under reduced pressure to afford a yellow syrup. The residue was purified by flash chromatography (silica gel) using 5% MeOH in CH2Cl2 to give the desired product (0.382 g, 61%) as a white semisolid.

reactant | 1-benzyl-4-hydroxypyridin-2(1H)-one | 1.86 mmol, 0.375 g | C(C1=CC=CC=C1)N1C(C=C(C=C1)O)=O | C12H11NO2
reactant | triethylamine | 2.04 mmol, 0.206 g | C(C)N(CC)CC | C6H15N
reactant | N-methyl-N-phenylcarbamoyl chloride | 2.24 mmol, 0.379 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | methanol | CO | CH4O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-benzyl-2-oxo-1,2-dihydropyridin-4-yl methyl(phenyl)carbamate | 0.382 g, 61% | CN(C(OC1=CC(N(C=C1)CC1=CC=CC=C1)=O)=O)C1=CC=CC=C1 | C20H18N2O3
